US04788195
2-[[4-(3-Pyridinyl)-2-pyrimidinyl]amino]phenol
A mixture of 35 g of N-(2-methoxyphenyl)-4-(3-pyridinyl)-2-pyrimidinamine in 200 ml of 47% aqueous hydrobromic acid was refluxed for 7 hours and then evaporated. The residue was mixed with saturated aqueous potassium bicarbonate and allowed to stand overnight, then filtered. The filtrate was concentrated, giving 3.5 g of the desired compound, mp 166°-169° C.

reactant | N-(2-methoxyphenyl)-4-(3-pyridinyl)-2-pyrimidinamine | 35 g | COC1=C(C=CC=C1)NC1=NC=CC(=N1)C=1C=NC=CC1 | C16H14N4O
solvent | hydrobromic acid | 200 ml | Br | BrH
product | 2-[[4-(3-Pyridinyl)-2-pyrimidinyl]amino]phenol | 3.5 g | N1=CC(=CC=C1)C1=NC(=NC=C1)NC1=C(C=CC=C1)O | C15H12N4O
